US03971809
(+)-17β-tert.Butoxy-13β-ethyl-3-methoxygona-1,3,5(10)-triene
A mixture of 1g (2.82 mmoles) of (+)-17β-tert.butoxy-13β-ethyl-3-methoxygona-1,3,5(10),9(11)-tetraene, 0.25 g of 5% palladium on carbon and 35 ml of ethyl acetate was stirred in an atmosphere of hydrogen for 1 hr during which time a total of 74 ml of hydrogen was absorbed (70.5 ml theory). The catalyst was filtered with suction on Celite and the filter cake was washed well with ethyl acetate. Concentration of the combined filtrate and washes in vacuo gave 1.23 g of colorless solid. This material was chromatographed on 50 g of silica gel. Elution with 19:1 hexane:ether gave 0.925 g of colorless solid which was recrystallized from ethanol. This afforded 0.67 g of colorless plates, m.p. 121°-123°. [α] D25 +44.69°(c 1.016, CHCl3); uv max (95% EtOH) 278 nm (ε 2020), 287 (1860); ir (CHCl3) 1610, 1580, 1500, 1360 cm-1 ; nmr (CDCl3)δ 7.18 (m, 1), 6.68 (m, 2) 3.74 (s, 3), 3.51 (t, 1, J = Hz), 1.15 ppm (s); ms m/e 356 (M+).

reactant | (+)-17β-tert.butoxy-13β-ethyl-3-methoxygona-1,3,5(10),9(11)-tetraene | C(C)(C)(C)O[C@H]1CC[C@H]2[C@H]3C(=CC[C@]12CC)C=1C=CC(=CC1CC3)OC | C24H34O2
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 74 ml | [H][H] | H2
catalyst | palladium on carbon | 0.25 g | [Pd] | Pd
solvent | ethyl acetate | 35 ml | C(C)(=O)OCC | C4H8O2
product | (+)-17β-tert.Butoxy-13β-ethyl-3-methoxygona-1,3,5(10)-triene | 1.23 g | C(C)(C)(C)O[C@H]1CC[C@H]2[C@H]3[C@H](CC[C@]12CC)C=1C=CC(=CC1CC3)OC | C24H36O2
